US08110588B2
5-(4-Chloro-phenyl)-3-(2-fluoro-4-trifluoromethyl-phenyl)-3H-[1,2,3]triazol-4-ylamine (18)
To a stirred and ice-cooled solution of sodium methoxide (0.296 g, 5.4848 mmol) in methanol (25 ml), commercial 4-chlorobenzyl cyanide (0.610 g, 4.0222 mmol) and 1-azido-2-fluoro-4-trifluoromethyl-benzene (0.750 g, 3.6565 mmol) are added portion wise. The reaction mixture is allowed to reach room temperature spontaneously overnight, concentrated in vacuo, added water, and extracted with ethylacetate (3×80 ml). The combined organic layers are dried over MgSO4, filtered and evaporated, to afford a red solid residue (1.200 g, 92% mass balance). This crude material is purified by column chromatography over silica gel (230-400 mesh) eluting with 10% ethylacetate in petroleum ether, to obtain the title compound as an off-white solid (0.350 g, 26% yield). M.p. 169.9-170.2° C. LC-ESI-HRMS of [M+H]+ shows 357.0516 Da. Calc. 357.053011 Da, dev. −4 ppm.

reactant | sodium methoxide | 5.4848 mmol, 0.296 g | C[O-].[Na+]
reactant | 4-chlorobenzyl cyanide | 4.0222 mmol, 0.610 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | 1-azido-2-fluoro-4-trifluoromethyl-benzene | 3.6565 mmol, 0.750 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C(F)(F)F)F | C7H3F4N3
solvent | methanol | 25 ml | CO | CH4O
product | 5-(4-Chloro-phenyl)-3-(2-fluoro-4-trifluoromethyl-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.350 g, 26% yield | ClC1=CC=C(C=C1)C1=C(N(N=N1)C1=C(C=C(C=C1)C(F)(F)F)F)N | C15H9ClF4N4
